US08912180B2
1-[4-Chloro-6-(morpholin-4-yl)pyrimidin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (100 mg) was dissolved in dimethylformamide (1 mL), and 3-methoxyprop-1-yne (45 μL), tetrakistriphenylphosphine palladium (0) (16 mg), copper (I) iodide (1.3 mg), and potassium carbonate (227 mg) were added thereto, followed by stirring in a microwave reactor at 80° C. for 1 hour. An aqueous ammonium chloride solution and chloroform were added thereto, and the organic layer was extracted, washed with saturated brine, and then dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=60:40). A mixed solvent of diisopropyl ether and hexane was added thereto, and the resulting solid was collected by filtration and further washed with hexane to obtain 2-(difluoromethyl)-1-[4-(3-methoxyprop-1-yn-1-yl)-6-(morpholin-4-yl)pyrimidin-2-yl]-1H-benzimidazole (10 mg) as a yellow powder.

reactant | 1-[4-Chloro-6-(morpholin-4-yl)pyrimidin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 100 mg | ClC1=NC(=NC(=C1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C16H14ClF2N5O
reactant | 3-methoxyprop-1-yne | 45 μL | COCC#C | C4H6O
reactant | potassium carbonate | 227 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | copper (I) iodide | 1.3 mg | [Cu]I
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(difluoromethyl)-1-[4-(3-methoxyprop-1-yn-1-yl)-6-(morpholin-4-yl)pyrimidin-2-yl]-1H-benzimidazole | 10 mg | FC(C1=NC2=C(N1C1=NC(=CC(=N1)C#CCOC)N1CCOCC1)C=CC=C2)F | C20H19F2N5O2
